US08486902B2
Step 1. (R)-3-cyclopentyl-3-[4-(2-methoxy-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile
4-Chloro-2-methoxy-7H-pyrrolo[2,3-d]pyrimidine (0.4 g, 2.18 mmol, Toronto Research Chemicals) and (R)-3-cyclopentyl-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]propanenitrile (0.824 g, 2.61 mmol, prepared as described in Org. Lett., 2009, 11(9), 1999-2002.) were dissolved in 1,4-dioxane (4 mL) and potassium carbonate (0.903 g, 6.54 mmol) in water (2 mL) was added. The mixture was degassed and tetrakis(triphenylphosphine)palladium(0) (0.126 g, 0.109 mmol) was added. The reaction mixture was heated to 100° C. for 16 h. The reaction mixture was partitioned between water and ethyl acetate. The aqueous layer was extracted with ethyl acetate three times. The combined extracts were dried over sodium sulfate, decanted and concentrated. Flash column chromatography, eluting with a gradient from 0-10% MeOH in methylene chloride was used to purify the product (670 mg, 91%). 1H NMR (300 MHz, CD3OD): δ 8.59 (s, 1H), 8.35 (s, 1H), 7.24 (d, 1H), 6.81 (d, 1H), 4.47 (dt, 1H), 4.04 (s, 3H), 3.21 (dd, 1H), 3.10 (dd, 1H), 2.62-2.44 (m, 1H), 2.02-1.86 (m, 1H), 1.81-1.20 (m, 7H); LCMS (M+H)+: 337.0.

reactant | 4-Chloro-2-methoxy-7H-pyrrolo[2,3-d]pyrimidine | 2.18 mmol, 0.4 g | ClC=1C2=C(N=C(N1)OC)NC=C2 | C7H6ClN3O
reactant | (R)-3-cyclopentyl-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]propanenitrile | 2.61 mmol, 0.824 g | C1(CCCC1)[C@@H](CC#N)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C17H26BN3O2
reactant | potassium carbonate | 6.54 mmol, 0.903 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.109 mmol, 0.126 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-3-cyclopentyl-3-[4-(2-methoxy-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile | C1(CCCC1)[C@@H](CC#N)N1N=CC(=C1)C=1C2=C(N=C(N1)OC)NC=C2 | C18H20N6O
